US07935709B2
To a stirred solution of 5-bromo-2-(2-morpholinoethylamino)benzonitrile (0.5521 g, 1.8 mmol) in THF (0.13 g, 1.8 mmol) was added bis(iso-butyl)aluminum hydride (2.4 ml, 3.6 mmol) at 0° C. and the resulting bright yellow-orange solution was stirred at 0° C. for 1 h. Methyl chloroformate (0.17 ml, 2.1 mmol) was added to the reaction at 0° C. The mixture was stirred at RT for 2 h, then treated with potassium tert-butoxide 1M THF (3.6 ml, 3.6 mmol) and heated to 60° C. for 5 h. After cooling, the reaction was quenched with NH4Cl(aq) and water (10 mL each) and the separated aqueous layer was extracted with EtOAc (3×10 mL). The combined organic phases were washed with brine, dried (Na2SO4), and concentrated to give a crude residue. Flash column chromatographic purification (eluting with 100% DCM to 3% MeOH in DCM gradient) provided 6-bromo-1-(2-morpholinoethyl)quinazolin-2(1H)-one as a sticky colorless oil. MS m/e 338 (M+H)+.

reactant | 5-bromo-2-(2-morpholinoethylamino)benzonitrile | 1.8 mmol, 0.5521 g | BrC=1C=CC(=C(C#N)C1)NCCN1CCOCC1 | C13H16BrN3O
reactant | THF | 1.8 mmol, 0.13 g | C1CCOC1 | C4H8O
reactant | bis(iso-butyl)aluminum hydride | 3.6 mmol, 2.4 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Methyl chloroformate | 2.1 mmol, 0.17 ml | ClC(=O)OC | C2H3ClO2
reactant | potassium tert-butoxide | 3.6 mmol, 1M, 3.6 ml | CC(C)([O-])C.[K+]
product | 6-bromo-1-(2-morpholinoethyl)quinazolin-2(1H)-one | BrC=1C=C2C=NC(N(C2=CC1)CCN1CCOCC1)=O | C14H16BrN3O2
